US07411072B2
Step A: Preparation of (4-bromo-2-nitro-phenyl)-(2-morpholin-4-yl-ethyl)-amine
Mix 5-bromo-2-fluoro-nitrobenzene (10 g, 45 mmol) and 4-(2-aminoethyl)morpholine (11.8 mL, 90 mmol) in THF (100 mL). Stir at room temperature for 18 h. Remove the THF under reduced pressure and partition the residue between water (200 mL) and ethyl acetate (200 mL). Dry the organic layer (MgSO4) and concentrate to give 15.3 g (100%) title compound. HPLC (ISO80-10M) t=1.83 min (94%), MS (S) 331 (M+1).

reactant | 5-bromo-2-fluoro-nitrobenzene | 45 mmol, 10 g | BrC=1C=CC(=C(C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | 4-(2-aminoethyl)morpholine | 90 mmol, 11.8 mL | NCCN1CCOCC1 | C6H14N2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (4-bromo-2-nitro-phenyl)-(2-morpholin-4-yl-ethyl)-amine | 15.3 g, 100% | BrC1=CC(=C(C=C1)NCCN1CCOCC1)[N+](=O)[O-] | C12H16BrN3O3
